US09029544B2
2-((3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)propan-2-ol
26 mg 1-((3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)ethanone are dissolved in 2 ml tetrahydrofurane cooled to −10° C. and treated with 110 μl of a 1.4 M solution of methylmagnesium bromide in toluene/tetrahydrofurane 75:25. The mixture is warmed to room temperature and stirred for 12 hours. The mixture is diluted with diethylether, washed with saturated aqueous ammonium chloride and dried with magnesium sulphate. The solvents are evaporated in vacuo and the residue is directly used in the next step.

reactant | 1-((3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)ethanone | 26 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)=O)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C32H42F3NO4Si
reactant | methylmagnesium bromide | C[Mg]Br
solvent | tetrahydrofurane | 2 ml | O1CCCC1 | C4H8O
solvent | toluene tetrahydrofurane | C1(=CC=CC=C1)C.O1CCCC1
solvent | diethylether | C(C)OCC | C4H10O
product | 2-((3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)propan-2-ol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)(C)O)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C33H46F3NO4Si
